US04456464
A mixture of ethyl P-ethyl-2-nitro-5-(2-chloro-4-trifluoromethylphenoxy)phenoxymethylphosphinate (4.7 mmol) and phosphorus pentasulfide (1.2 mmol) is heated to 150°-160° under nitrogen for 3-4 hours. After cooling, the residue is purified by prep. TLC to give O-ethyl P-ethyl-2-nitro-5-(2-chloro-4-trifluoromethylphenoxy)phenoxymethylphosphinothioate.

reactant | ethyl P-ethyl-2-nitro-5-(2-chloro-4-trifluoromethylphenoxy)phenoxymethylphosphinate | 4.7 mmol | C(C)P(OCC)(=O)COC1=C(C=CC(=C1)OC1=C(C=C(C=C1)C(F)(F)F)Cl)[N+](=O)[O-] | C18H18ClF3NO6P
reactant | phosphorus pentasulfide | 1.2 mmol | P12(=S)SP3(=S)SP(=S)(S1)SP(=S)(S2)S3 | P4S10
product | O-ethyl P-ethyl-2-nitro-5-(2-chloro-4-trifluoromethylphenoxy)phenoxymethylphosphinothioate | C(C)P(OCC)(=S)COC1=C(C=CC(=C1)OC1=C(C=C(C=C1)C(F)(F)F)Cl)[N+](=O)[O-] | C18H18ClF3NO5PS
